US08633173B2
7-[8-(2-Ethoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-(2-ethoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (0.640 g, 1.87 mmol) and 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.590 g, 2.25 mmol) in a manner analogous to Example 311b to give product (1.06 g, 99%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.55 (s, 1H), 8.78 (d, 1H), 7.98 (s, 1H), 7.78 (d, 1H), 7.72 (d, 1H), 7.42 (m, 2H), 7.35 (d, 1H), 7.08 (t, 1H), 7.00 (d, 1H), 4.15 (q, 2H), 3.42 (m, 4H), 2.78 (m, 4H), 1.41 (s, 9H), 1.22 (t, 3H): MS=568 (MH)+.

reactant | 2-chloro-8-(2-ethoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 1.87 mmol, 0.640 g | ClC1=NN2C(C(=CC=C2)C2=C(C=CC(=C2)C(F)(F)F)OCC)=N1 | C15H11ClF3N3O
reactant | 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 2.25 mmol, 0.590 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)N | C15H22N2O2
product | 7-[8-(2-Ethoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=CC(=C1)C(F)(F)F)OCC)=N2 | C30H32F3N5O3
